US07507739B2
To a solution of 2-[2,6-difluoro-4-(4-hydroxybutyl)phenyl]malonate (2.0 g, 5.8 mmol) and triethylamine (2.43 mL, 17.4 mmol) in 15 ml of methylene chloride at 0° C. is added methanesulfonyl chloride (0.898 mL, 11.6 mmol). The resulting mixture is allowed to warm to room temperature in 1.5 h. The mixture is washed with 10% hydrochloric acid, saturated sodium bicarbonate, and saturated sodium chloride. The organic layer is dried over magnesium sulfate and concentrated to a yellow oil. The yellow oil thus obtained is stirred with 2.0 M diethylamine in tetrahydrofuran (56 mL, 112 mmol) at room temperature for 16 h, followed by concentration. The residue is diluted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride, dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of 100% ethyl acetate to 50% methyl alcohol in ethyl acetate to 100% methyl alcohol. Concentration provides diethyl 2-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl}malonate as a yellow oil (1.2 g). MS: m/z 372.2 (M+H).

reactant | 2-[2,6-difluoro-4-(4-hydroxybutyl)phenyl]malonate | 5.8 mmol, 2.0 g | FC1=C(C(=CC(=C1)CCCCO)F)C(C(=O)[O-])C(=O)[O-]
reactant | triethylamine | 17.4 mmol, 2.43 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.6 mmol, 0.898 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diethylamine | 2.0 M | C(C)NCC | C4H11N
reactant | tetrahydrofuran | 112 mmol, 56 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | diethyl 2-{4-[4-(dimethylamino)butyl]-2,6-difluorophenyl}malonate | 1.2 g | CN(CCCCC1=CC(=C(C(=C1)F)C(C(=O)OCC)C(=O)OCC)F)C | C19H27F2NO4
